US07026501B2
2,6-Dimethoxy-4-hydroxymethylbenzene boronic acid
To a solution of 3,5-dimethoxybenzyl alcohol (80 g) in THF (1900 ml) was added n-BuLi (1.6 M in n-hexane, 750 ml) portionwise at −50° C. for 0.5 hour under argon. The mixture was warmed up to room temperature for 2 hours and cooled again to −60° C. To the mixture was added (MeO)3B (200 ml). The resulting mixture was warmed to room temperature and stirred over night. To the reaction mixture was added a solution of citric acid (300 g) in H2O (1200 ml) portionwise at 0° C. The aqueous layer was separated, saturated with NaCl and extracted with AcOEt. The combined AcOEt extract was dried (Na2SO4) and evaporated. The crystalline residue was triturated with AcOEt and collected by filtration to yield the title compound (75.1 g). mp. 92-98° C.; IR (Nujol) 3460, 3408, 3218, 1613, 1578, 1288, 1231, 1123, 1055, 960, 779 cm−1; MS (APCI) m/z 230 (M+NH4)

reactant | 3,5-dimethoxybenzyl alcohol | 80 g | COC=1C=C(CO)C=C(C1)OC | C9H12O3
reactant | n-BuLi | 1.6 M, 750 ml | [Li]CCCC
reactant | (MeO)3B | 200 ml | B(OC)(OC)OC | C3H9BO3
reactant | citric acid | 300 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 1900 ml | C1CCOC1 | C4H8O
solvent | H2O | 1200 ml | O | H2O
product | 2,6-Dimethoxy-4-hydroxymethylbenzene boronic acid | 75.1 g | COC1=C(C(=CC(=C1)CO)OC)B(O)O | C9H13BO5
